US08207180B2
8-Amino-2-iodo-1-methyl-4,5-dihydro-1H-1,7,9-triaza -cyclopenta[a]naphthalene-3-carboxylic acid (N2)
To a solution of 8-amino-2-iodo-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester N1 (1.28 mmol) in 95% EtOH (30 mL) 4M NaOH (1.2 mL) was added. The mixture was heated to reflux for 10 h then cooled and evaporated to dryness. The residue was dissolved in 30 mL of water, acidified with glacial AcOH and the precipitate was filtered and washed with water. The product was dried affording the title compound (95% yield). ESI (+) MS: m/z 371 (MH+). 1H NMR: 2.63 (t, J=7.80, 2H), 2.90 (t, J=7.80, 2H), 4.18 (s, 3H), 6.33 (bs, 2H), 8.00 (s, 1H), 12.26 (bs, 1H).

reactant | 8-amino-2-iodo-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C2=C1CCC1=CN=C(N=C21)N)C)I | C14H15IN4O2
solvent | EtOH | 4M, 30 mL | CCO | C2H6O
product | 8-Amino-2-iodo-1-methyl-4,5-dihydro-1H-1,7,9-triaza -cyclopenta[a]naphthalene-3-carboxylic acid | 95% yield | NC1=NC=C2CCC3=C(C2=N1)N(C(=C3C(=O)O)I)C | C12H11IN4O2
